US04747869
210 g (1.5 mols) of 1-morpholino-2-methyl-prop-1-ene are added dropwise, in the course of one hour, to 169.0 g (1.5 mols) of chloroacetyl chloride, dissolved in 350 ml of diethyl ether, at 5° C. After the addition is complete, the mixture is stirred for a further 3 hours under reflux. The solution is poured onto 100 g of ice and brought to pH 5 with aqueous sodium bicarbonate solution, and the ether phase is separated off. The aqueous phase is extracted with 100 ml of diethyl ether, the organic phases are combined, and dried over sodium sulphate, the solvent is distilled off and the residue is distilled under the vacuum from a water jet. 136.4 g (61% of theory) of 4-chloro-3-keto-2,2-dimethylbutanal of boiling point 95°-98° C./14 mbar are obtained.

reactant | 1-morpholino-2-methyl-prop-1-ene | 1.5 mols, 210 g | O1CCN(CC1)C=C(C)C | C8H15NO
reactant | chloroacetyl chloride | 1.5 mols, 169.0 g | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | diethyl ether | 350 ml | C(C)OCC | C4H10O
product | 4-chloro-3-keto-2,2-dimethylbutanal | 136.4 g, 61% | ClCC(C(C=O)(C)C)=O | C6H9ClO2
